US06518423B1
1-(10-Methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)-1,2-ethanediol
To 30 ml of a solution of 2.6 g of 8-vinyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine and 1.06 g of N-methylmorpholine oxide in acetone was added 4.2 ml of a 1% solution of osmium tetraoxide in tert-butanol and the resulting mixture was stirred at room temperature for 12 hours. Then it was distributed into an aqueous solution of sodium hydrogenthiosulfate and ethyl acetate. After filtering off the inorganic matters through celite, the organic layer was extracted, washed with water and dried over anhydrous sodium sulfate and the extract was filtered. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol) to thereby give 0.35 g of the title compound as yellow crystals.

reactant | 8-vinyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 2.6 g | C(=C)C=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C14H13N3OS
reactant | N-methylmorpholine oxide | 1.06 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | CC(=O)C | C3H6O
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
catalyst | osmium tetraoxide | [Os](=O)(=O)(=O)=O
product | 1-(10-Methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)-1,2-ethanediol | 0.35 g | COCN1C2=C(SC3=C1C=C(C=C3)C(CO)O)N=CC=N2 | C14H15N3O3S
